US06451821B1
2 g of 3-nitrophenylglycine are heated for 20 hours with stirring at a temperature in the region of 100° C. in 100 cm3 of absolute ethanol containing 20 cm3 of 6.5N hydrochloric ethanol. The suspension is filtered at a temperature in the region of 50° C.; the filtrate is concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained is taken up in water and then extracted with about 100 cm3 of ethyl acetate. The aqueous phase is made alkaline by addition of sodium carbonate until a pH in the region of 10 is obtained. The medium is extracted with ethyl acetate; the combined extracts are washed with aqueous sodium chloride solution, dried over magnesium sulfate and then concentrated under reduced pressure (5 kPa) at 40° C. 1 g of ethyl 3-nitrophenylglycinate is obtained in the form of a yellow oil. (Rf=0.38 in a 95/5 by volume mixture of dichloromethane/methanol, on a Merck 60F254R silica plate)

reactant | 3-nitrophenylglycine | 2 g | [N+](=O)([O-])C=1C=C(C=CC1)NCC(=O)O | C8H8N2O4
reactant | ethanol | 100 cm3 | C(C)O | C2H6O
reactant | ethanol | 6.5N | C(C)O | C2H6O
solvent | water | O | H2O
product | ethyl 3-nitrophenylglycinate | 1 g | [N+](=O)([O-])C=1C=C(C=CC1)NCC(=O)OCC | C10H12N2O4
